US08389524B2
(1R)-1-({4-[(2,3-Dihydro[1,4]oxathiino[2,3-c]pyridin-7-ylmethyl)amino]-4-methyl-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A suspension of (1R)-1-[(4-amino-4-methyl-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (34 mg, 0.108 mmol) in chloroform (2 ml) and methanol (0.1 ml) at rt under argon was treated with 2,3-dihydro[1,4]oxathiino[2,3-c]pyridine-7-carbaldehyde (19.60 mg, 0.108 mmol) (for a synthesis see WO2004058144, Example 60) and stirred for 2 h. The solution was then treated with sodium triacetoxyborohydride (68.8 mg, 0.324 mmol) and stirred at rt for 0.5 h. The reaction was then treated with saturated aqueous NaHCO3 (20 ml) and extracted with 20% methanol/DCM (3×100 ml). The combined organic extracts were dried (MgSO4), filtered, evaporated and chromatographed (0-20% methanol/DCM, Rf=0.4 in 15% methanol/DCM) to give the free base of the title compound as a light brown solid (32 mg, 0.067 mmol, 62%).

reactant | (1R)-1-[(4-amino-4-methyl-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 0.108 mmol, 34 mg | NC1(CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O)C | C17H22N4O2
reactant | 2,3-dihydro[1,4]oxathiino[2,3-c]pyridine-7-carbaldehyde | 0.108 mmol, 19.60 mg | S1CCOC=2C=NC(=CC21)C=O | C8H7NO2S
reactant | sodium triacetoxyborohydride | 0.324 mmol, 68.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
reactant | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.1 ml | CO | CH4O
product | (1R)-1-({4-[(2,3-Dihydro[1,4]oxathiino[2,3-c]pyridin-7-ylmethyl)amino]-4-methyl-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 0.067 mmol, 32 mg, 62% | Cl.S1CCOC=2C=NC(=CC21)CNC2(CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O)C | InChI=1S/C25H29N5O3S.ClH/c1-25(27-13-18-12-21-20(14-26-18)33-10-11-34-21)6-8-28(9-7-25)15-19-16-29-22(31)4-2-17-3-5-23(32)30(19)24(17)29;/h2-5,12,14,19,27H,6-11,13,15-16H2,1H3;1H/t19-;/m1./s1
